US04895860
Step (1) Preparation of 3-(4-Fluorophenoxy)-2-chloro-1-propene
According to the procedure of W. K. Anderson et al., J. Chem. Soc., Perkin 1,1 (1976), a mixture of 4-fluorophenol (20.0 g, 0.178 mol) and K2CO3 (27.3 g, 0.196 mol) in acetone (250 mL) was heated at reflux for 1 hour. 2,3-Dichloro-1-propene was added, and the resulting mixture was refluxed for 2 days, cooled, and concentrated. The mixture was diluted with H2O, and extracted with ether (3×150 mL). The ethereal extracts were dried (MgSO4) and concentrated to give a brown oil. Distillation under high vacuum gave 26.4 g (79%) of product as a colorless liquid.

reactant | 4-fluorophenol | 0.178 mol, 20.0 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | 0.196 mol, 27.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-Dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 3-(4-Fluorophenoxy)-2-chloro-1-propene | 26.4 g, 79% | FC1=CC=C(OCC(=C)Cl)C=C1 | C9H8ClFO
